US07547698B2
SYNTHESIS OF 6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE
Following the procedure as described in Example 1, making variations only as required to use 3-(cyclopropyl)propylamine in place of isoamylamine to react with 6-[4-(5-fluoro-2-trifluoromethylbenzoyl)piperazin-1-yl]imidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid in 46% yield (0.079 g). 1H NMR (300 MHz, CDCl3) δ 8.15 (d, J=0.6 Hz, 1H), 7.76-7.71 (m, 1H), 7.68 (d, J=9.9 Hz, 1H), 7.30-7.18 (m, 2H), 7.09-7.03 (m, 1H), 6.87 (d, J=9.9 Hz, 1H), 4.04-3.93 (m, 1H), 3.91-3.8 (m, 1H), 3.64-3.54 (m, 2H), 3.51-3.4 (m, 4H), 3.37-3.29 (m, 2H), 1.77-1.65 (m, 2H), 1.32-1.23 (m, 2H), 0.71-0.61 (m 1H), 0.42-0.37 (m, 2H), 0.08-0.03 (m, 2H). 13C NMR (75 MHz, CDCl3) δ 165.9, 162.5, 162.3, 154.7, 138.4, 136.9, 135.6, 129.61, 129.6, 129.5, 126.4, 126.36, 125.0, 123.3, 122.9, 121.4, 118.1, 116.7, 116.5, 114.7, 114.57, 111.8, 46.2, 45.5, 41.2, 38.8, 31.9, 29.7, 10.4, 4.4. MS (ES+) m/z 519 (M+1).

reactant | 3-(cyclopropyl)propylamine | C1(CC1)CCCN | C6H13N
reactant | 6-[4-(5-fluoro-2-trifluoromethylbenzoyl)piperazin-1-yl]imidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(C2=C(C=CC(=C2)F)C(F)(F)F)=O)C1 | C21H19F4N5O3
product | 6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE | 46% yield | C1(CC1)CCCNC(=O)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(C2=C(C=CC(=C2)F)C(F)(F)F)=O)C1 | C25H26F4N6O2
